US06316477B1
1-(2,6-Dichloro-4-trifluoromethylphenyl)-5-dimethylaminomethylideneamino-3-(1,2,4-oxadiazol-3-yl)-4-trifluoromethylsulfinylpyrazole (Compound No. 2-19)
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1,2,4-oxadiazol-3-yl)-4-trifluoromethylsulfinylpyraz ole (500 mg, 1.04 mmol) and N,N-dimethylformamide dimethylacetal (90%) (280 mg, 2.12 mmol) were suspended in 20 ml of dry toluene. The resulting suspension was stirred with heating under reflux for 5 hours. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure. The residue was dissolved in 50 ml of toluene and then concentrated again under reduced pressure. The resulting concentrated residue was purified by subjecting to silica gel preparative TLC [developing solvent: mixed solvent of hexane and ethyl acetate (volume ratio=3:1)] to obtain 350 mg (0.65 mmol) of the title compound as a colorless crystal. Yield 62.5%.

reactant | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1,2,4-oxadiazol-3-yl)-4-trifluoromethylsulfinylpyraz ole | 1.04 mmol, 500 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1=NOC=N1)S(=O)C(F)(F)F | C13H5Cl2F6N5O2S
reactant | N,N-dimethylformamide dimethylacetal | 2.12 mmol, 280 mg | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-5-dimethylaminomethylideneamino-3-(1,2,4-oxadiazol-3-yl)-4-trifluoromethylsulfinylpyrazole | 0.65 mmol, 350 mg, Yield 62.5% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N=CN(C)C)S(=O)C(F)(F)F)C1=NOC=N1 | C16H10Cl2F6N6O2S
